US03983247
59 g. of sodium amide (50% suspension in benzene) are placed in 1 liter of 1,2-dimethoxyethane and treated dropwise, while cooling with ice, with 109.2 g. of 1,1-dimethoxy-3,7-dimethyl-7-octanol in 400 ml. of 1,2-dimethoxyethane. The mixture is left to stir under a nitrogen atmosphere for 15 hours at 85°C. The mixture is then again cooled and treated dropwise with a solution of 89.3 g. of propargyl bromide in 250 ml. of 1,2-dimethoxyethane. The mixture is then left to stir at 40°C. until the reaction is complete. The mixture is poured on to 4 liters of ice-water and extracted twice with 2.5 liters of ether. The extracts are washed with 10% sodium hydroxide, water and saturated sodium chloride solution, dried over sodium sulphate and evaporated. By distillation or chromatography, there is obtained pure dimethylacetal of 3,7-dimethyl-(2-propynyloxy)-octanal; boiling point (bulb-tube) = 70°C/0.03 mmHg; nD25 = 1.4491. 65 g. of the dimethylacetal of 3,7-dimethyl-7-(2-propynyloxy)-octanal are heated at 40°C. for 16 hours with a mixture of 300 ml. of 2-N hydrochloric acid, 700 ml. of water and 1 liter of tetrahydrofuran while stirring well. For the working up, the mixture is poured on to 1 liter of ice-water and extracted twice with 1.5 liters of ether. The extracts are washed with 10% sodium carbonate solution, water and saturated sodium chloride solution, dried over sodium sulphate and evaporated. By distillation, there is obtained pure 3,7-dimethyl-7-(2-propynyloxy)-octanal; boiling point = 113°C/1 mmHg; nD25 = 1.4553.

reactant | sodium amide | [NH2-].[Na+]
reactant | 1,1-dimethoxy-3,7-dimethyl-7-octanol | COC(CC(CCCC(C)(O)C)C)OC | C12H26O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 1,2-dimethoxyethane | 1 liter | COCCOC | C4H10O2
product | 3,7-dimethyl-(2-propynyloxy)-octanal | CC(C(C=O)OCC#C)CCCC(C)C | C13H22O2
